US05719298
The same procedure for preparing (1S,2S)-2-(3-neopentyl-3-nonylureido)cyclohexanol as in Example 3 was repeated except that the neopentylnonylamine employed in Example 3 was replaced by decylisopropylamine, whereby (1S,2S)-2-(3-decyl-3-isopropylureido)cyclohexanol was obtained in a yield of 88%.

reactant | (1S,2S)-2-(3-neopentyl-3-nonylureido)cyclohexanol | C(C(C)(C)C)N(C(N[C@@H]1[C@H](CCCC1)O)=O)CCCCCCCCC | C21H42N2O2
reactant | neopentylnonylamine | C(C(C)(C)C)NCCCCCCCCC | C14H31N
reactant | decylisopropylamine | C(CCCCCCCCC)NC(C)C | C13H29N
product | (1S,2S)-2-(3-decyl-3-isopropylureido)cyclohexanol | yield of 88% | C(CCCCCCCCC)N(C(N[C@@H]1[C@H](CCCC1)O)=O)C(C)C | C20H40N2O2
